US05654307
Reaction of 4-(3-bromoanilino)-6-fluoropyrido [3,2-d) pyrimidine (0.12 g, 0.38 mmol) (described in a previous experimental) with a saturated solution of ammonia in ethanol in a pressure vessel at 100° C. for 18 h gives 6-amino-4-(3-bromoanilino)pyrido[3,2-d]pyrimidine, (87 mg, 72%). 1H NMR (CDCl3) δ 8.76 (1H, brs), 8.64 (1H, s), 8.23 (1H, brs), 7.93 (1H, d, J=9.0 Hz), 7.81 (1H, dt, Jd =7.7 Hz, Jt =1.8 Hz), 7.28-7.22 (2H, m), 7.00 (1H, d, J=9.0 Hz), 4.90 (2H, brs).

reactant | 4-(3-bromoanilino)-6-fluoropyrido [3,2-d) pyrimidine | 0.38 mmol, 0.12 g | BrC=1C=C(NC=2C3=C(N=CN2)C=CC(=N3)F)C=CC1 | C13H8BrFN4
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 6-amino-4-(3-bromoanilino)pyrido[3,2-d]pyrimidine | 87 mg, 72% | NC=1C=CC=2N=CN=C(C2N1)NC1=CC(=CC=C1)Br | C13H10BrN5
